US07781436B2
[6-Chloro-1-(2-methyl-pyridin-4-ylmethyl)-1H-indol-3-yl]-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with methanesulfonic acid 2-methyl-pyridin-4-ylmethyl ester (prepared by mesylation of the commercially available (2-methyl-pyridin-4-yl)-methanol) gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | methanesulfonic acid 2-methyl-pyridin-4-ylmethyl ester | CC1=NC=CC(=C1)COS(=O)(=O)C | C8H11NO3S
reactant | (2-methyl-pyridin-4-yl)-methanol | CC1=NC=CC(=C1)CO | C7H9NO
product | [6-Chloro-1-(2-methyl-pyridin-4-ylmethyl)-1H-indol-3-yl]-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CN(C2=C1)CC1=CC(=NC=C1)C)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C29H30ClN3O3
